US05212169
Preparation of N-[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepin-10-yl)-2-oxoethyl]-3-[(2-furanylmethyl)thio]propanamide
Trimethylaluminum (2.0M in toluene; 4.6 mL) was added dropwise via syringe to a stirred solution of methyl 3-[(2-furanylmethyl)thio]propanoate (0.75 gram) and 10-(aminoacetyl)-8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine (1.00 gram) in toluene (30 mL) at room temperature under nitrogen, and the reaction was stirred for 5 hours. Methanol (14 mL) was then added, and the reaction was stirred at room temperature overnight. The reaction was evaporated in vacuo, and the resulting orange residue was partitioned between chloroform (50 mL) and 1N NaOH (50 mL). The layers were separated and the aqueous layer was extracted with chloroform (50 mL). The combined chloroform extracts were washed with 1N NaOH (50 mL), 1N HCl (2×50 mL), and brine (50 mL), dried over MgSO4, and evaporated in vacuo. The crude product was purified by flash chromatography through silica gel 60 (350 mL) using 3:1 chloroform:ethyl acetate followed by recrystallization from cyclohexane/ethyl acetate. The yield of the title compound was 0.63 gram (40%) in the form of a tan solid. Analysis calculated for C23H21ClN2O4S: C, 60.46; H, 4.63; N, 6.13; Cl, 7.67; S, 7.02. Found: C, 60.16; H, 4.62; N, 6.05; Cl, 8.06; S, 7.02. DSC: 90°-95° C.

reactant | Trimethylaluminum | 2.0M, 4.6 mL | C[Al](C)C
reactant | methyl 3-[(2-furanylmethyl)thio]propanoate | 0.75 gram | O1C(=CC=C1)CSCCC(=O)OC | C9H12O3S
reactant | 10-(aminoacetyl)-8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine | 1.00 gram | NCC(=O)N1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)Cl | C15H13ClN2O2
reactant | Methanol | 14 mL | CO | CH4O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | N-[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepin-10-yl)-2-oxoethyl]-3-[(2-furanylmethyl)thio]propanamide | ClC1=CC2=C(OC3=C(CN2C(CNC(CCSCC=2OC=CC2)=O)=O)C=CC=C3)C=C1 | C23H21ClN2O4S
